US03987053
EXAMPLE 56: 1-Methyl-2-nitro-5-imidazolaldehyde
To a solution of 0.8 g. of 1-methyl-2-nitro-5-styrylimidazole in 300 ml. of methanol, a solution of 1.6 g. of NaIO4 in 40 ml. of water, and 0.02 g. of OsO4 are added. The mixture is stirred at room temperature for ten hours, then an additional 0.01 g. of OsO4 is added and stirring is carried on for eight hours. The reaction mixture is filtered and evaporated to dryness under vacuum at room temperature. The residue is extracted with ethyl acetate. After concentration of the resulting solution, 0.325 g. of the product are obtained. Yield 60%.

reactant | 1-methyl-2-nitro-5-styrylimidazole | CN1C(=NC=C1C=CC1=CC=CC=C1)[N+](=O)[O-] | C12H11N3O2
reactant | methanol | CO | CH4O
catalyst | OsO4 | O=[Os](=O)(=O)=O
solvent | water | O | H2O
product | 1-Methyl-2-nitro-5-imidazolaldehyde | Yield 60% | CN1C(=NC=C1C=O)[N+](=O)[O-] | C5H5N3O3
